US05686459
(3aRS,4SR,6RS,6aSR)-2-Benzyl-4-(4-bromo-phenyl)-6-methyl-tetrahydro -pyrrolo[3,4-c]pyrrole-1,3-dione was prepared from N-benzylmaleimide, D,L-alanine and 4-bromobenzaldehyde in an analogous manner to Example 2.a). 47% were isolated as colourless crystals. M.p.: 170°-172° C. FAB-MS: 799 ([2M+3H]+, 10); 552 (3); (399 ([M+H]+, 100); 238 (9); 211 (29); 91 (61).

reactant | N-benzylmaleimide | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
reactant | D,L-alanine | NC(C)C(=O)O | C3H7NO2
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | (3aRS,4SR,6RS,6aSR)-2-Benzyl-4-(4-bromo-phenyl)-6-methyl-tetrahydro -pyrrolo[3,4-c]pyrrole-1,3-dione | C(C1=CC=CC=C1)N1C(C2C(NC(C2C1=O)C1=CC=C(C=C1)Br)C)=O | C20H19BrN2O2
